US08461339B2
Isoquinolin-3-yl-(4-pyrrolidin-1-ylmethyl-pyridin-2-yl)-amine
2-Chloro-4-pyrrolidin-1-ylmethyl-pyridine (1 eq), isoquinoline-3-ylamine (1 eq), 2.0 eq. of caesium carbonate, 10% (mol) Xantphos and 10% (mol) of Pd2(dba)3 were mixed in toluene (3 ml). The reaction mixture was degassed for three times and then warmed to 100° C. overnight. The reaction mixture was cooled, concentrated and purified by column chromatography eluting 0-10% sat. NH3/MeOH and DCM to afford the title compound.

reactant | 2-Chloro-4-pyrrolidin-1-ylmethyl-pyridine | 1 eq | ClC1=NC=CC(=C1)CN1CCCC1 | C10H13ClN2
reactant | isoquinoline-3-ylamine | 1 eq | C1=NC(=CC2=CC=CC=C12)N | C9H8N2
reactant | caesium carbonate | 2.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Isoquinolin-3-yl-(4-pyrrolidin-1-ylmethyl-pyridin-2-yl)-amine | C1=NC(=CC2=CC=CC=C12)NC1=NC=CC(=C1)CN1CCCC1 | C19H20N4
